US04158663
2-(Hydroxymethyl)-4H-1-benzopyran-4-one.
A mixture of 4H-1-benzopyran-4-one-2-carboxaldehyde (400 mg, 0.0023 m) and sodium borohydride (8.8 mg. 0.0023 m) in methanol (20 ml) was stirred at room temperature for 30 minutes. The solvent was removed at reduced pressure to give a white solid. The solid was washed with water, sucked dry, and recrystallized from ethanol to give white crystals (220 mg, 55%), m.p. 165°-167°.

reactant | 4H-1-benzopyran-4-one-2-carboxaldehyde | 400 mg | O1C(=CC(C2=C1C=CC=C2)=O)C=O | C10H6O3
reactant | sodium borohydride | 8.8 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(Hydroxymethyl)-4H-1-benzopyran-4-one | 220 mg, 55% | OCC=1OC2=C(C(C1)=O)C=CC=C2 | C10H8O3
